US09447091B2
N-(5-(6-(1-cyclopentyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide
The compound was prepared using the procedures of Example 334 starting from 5-(6-bromo-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine (133 mg, 0.33 mmol) and using cyclopropanesulfonyl chloride (20 mg, 0.66 mmol, 2.0 eq.) and 1-cyclopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.115 g, 0.43 mmol, 2.0 eq.) to give the crude residue which was purified by preparative HPLC to give the product in 27.86% yield (34 mg). 1H NMR (400 MHz, DMSO-d6): δ 10.26 (s, 1H), 8.96 (s, 1H), 8.76-8.75 (d, 1H), 8.45-8.42 (t, 2H), 8.06 (s, 1H), 8.00-7.99 (d, 1H), 7.78-7.70 (m, 2H), 7.49-7.43 (m, 2H), 7.31-7.26 (t, 1H), 4.74-4.70 (t, 1H), 2.84 (m, 1H), 2.14-2.08 (m, 2H), 2.00-1.96 (m, 2H), 1.84-1.81 (m, 2H), 1.69-1.65 (m, 2H), 1.09-1.02 (m, 4H); LC-MS (ESI): Calculated mass: 560.18; Observed mass: 561.2 [M+H]+ (rt: 1.70 min).

reactant | 5-(6-bromo-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine | 0.33 mmol, 133 mg | BrC=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)N | C18H11BrF2N4
reactant | cyclopropanesulfonyl chloride | 0.66 mmol, 20 mg, 2.0 eq. | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | 1-cyclopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.43 mmol, 0.115 g, 2.0 eq. | C1(CCCC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O2
product | N-(5-(6-(1-cyclopentyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide | 27.86% yield | C1(CCCC1)N1N=CC(=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)C2CC2 | C29H26F2N6O2S
